US07432293B2
d) 3-[3-(6-Dimethylamino-pyridin-3-yl)-[1,2,4]oxadiazol-5-yl]-benzoic acid
In a 250 ml round flask, 7.0 g (21.6 mmol) of 3-[3-(6-dimethylamino-pyridin-3-yl)-[1,2,4]oxadiazol-5-yl]-benzoic acid methyl ester is dissolved in 150 ml of dioxane and treated with 32.4 ml (1M, 32.4 mmol, 1.5 eq.) of aqueous LiOH solution. After 20 h, the solvent is removed under vacuo and the residue suspended in 300 ml H2O. The pH value is then adjusted to 2 by addition of 1M HCl-solution. The precipitate is stirred for 30 minutes, then filtered, washed with 0.1 M HCl-solution and with diethyl-ether and dried. This yields the title compound as light yellow solid. Mass spectrum: m/z (M+H)+: 311.0

reactant | 3-[3-(6-dimethylamino-pyridin-3-yl)-[1,2,4]oxadiazol-5-yl]-benzoic acid methyl ester | 21.6 mmol, 7.0 g | COC(C1=CC(=CC=C1)C1=NC(=NO1)C=1C=NC(=CC1)N(C)C)=O | C17H16N4O3
reactant | LiOH | 32.4 mmol, 1M, 32.4 ml, 1.5 eq. | [Li+].[OH-]
solvent | dioxane | 150 ml | O1CCOCC1 | C4H8O2
product | 3-[3-(6-Dimethylamino-pyridin-3-yl)-[1,2,4]oxadiazol-5-yl]-benzoic acid | CN(C1=CC=C(C=N1)C1=NOC(=N1)C=1C=C(C(=O)O)C=CC1)C | C16H14N4O3
